US06677349B1
Using the general method of Example 255, 1-(3-aminopropyl)-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 6.6 mmol) was reacted with methanesulfonic anhydride (1.26 g, 7.3 mmol) to provide 630 mg of N-{3-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide as a solid, m.p. 150.0-152.0° C. Analysis: Calculated for C17H27N5O3S: %C, 53.52; %H, 7.13; %N, 18.36; Found: %C, 53.27; %H, 7.12; %N, 18.37.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 6.6 mmol, 2.0 g | NCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C16H25N5O
reactant | methanesulfonic anhydride | 7.3 mmol, 1.26 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | N-{3-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide | 630 mg | NC1=NC=2CCCCC2C2=C1N=C(N2CCCNS(=O)(=O)C)CCOC | C17H27N5O3S
